mycircuit

VDD VDD 0 V dc={VDD} value=0
Vin in 0 V value={Vin}

Rin in net1 R value={1/Gin}
Rl VDD net2 R value={1/Gl}

Q1 net2 net1 0 0 QV gm={gm} go={go} gpi={gpi} cpi ={cpi} cbx={cx} cbc={cmu} rb={1/gx}

C1 net2 0 C value={Cl}

.source Vin
.detector V_net2
.end